Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Ventral hernia
 
Major Surgical or Invasive Procedure:
1. Ventral incisional hernia repair with mesh (retrorectus).
2. Placement of mesh for hernia repair.
3. Lysis of adhesions.

 
History of Present Illness:
Ms. ___  presents for evaluation of abdominal  bulge 
she has had for many  months. Complains of pain and ache in 
bulge when active -  coughing sneezing and lifting or straining, 
no associated nausea or vomiting or change in bowel habit. No 
h/o chronic constipation, chronic cough or difficulty voiding. 
No colicky abdominal pain , ache is relieved by reduction of 
bulge Bulge has increased in size and interferes with her 
lifestyle Able to walk up 2 flights of stairs without difficulty 
dyspnea or chest pain.Denies history of diabetes, hepatitis, 
liver, lung, cardiac and kidney problems.Denies history of 
bleeding of gums, hemarthrosis, petechiae - i.e. bleeding 
disorders

 
Past Medical History:
IRRITABLE BOWEL SYNDROME
HEADACHE - MIGRAINE, UNSPEC
VITILIGO
KELOID
HEMORRHOIDS, UNSPEC
IRON DEFIC
RHINITIS - ALLERGIC, UNSPEC CAUSE
Hypercholesteremia
Recurrent UTI
Overweight (BMI 25.0-29.9)

Past Surgical Hx
Appendectomy ___
Excis ovarian cyst ___
Surg treat ectop w/salpingect ___
Surg treat ectop w/o salpingec ___
___ left tubal repair for scar tissue (infertility)
diag laparoscopy; infertility
Hysteroscopy - endomet bx &/or polypectomy
polypectomy at ___
 
Social History:
___
Family History:
Heart disease
 
Physical Exam:
Discharge Physical Exam:
Vitals: WNL
Gen: Awake, alert, NAD
HEENT: normocephalic
CV: RRR
Pulm: No resp distress
Abd: Soft, nontender, nondistended, JP drain in place draining 
serosanguinous material, incision open to air, CDI
Ext: No CCE
Neuro: Grossly intact
 
Pertinent Results:
None
 
Brief Hospital Course:
Ms. ___ presented to ___ on ___ for a planned repair of 
her incisional ventral hernia . Patient was taken to the 
operating room for the procedure the same day. There were no 
adverse events in the operating room; please see the operative 
note for details.  Pt was extubated, taken to the PACU, a JP 
drain was placed in the OR. Pt was planned for discharge the 
same day but was not able to have her pain adequately controlled 
with PO medications in the PACU; a thoracic epidural was placed 
by anesthesia and she was admitted to the surgery service for 
observation and pain control. Her epidural was removed on POD 2, 
and she was subsequently discharged home on PO pain meds on POD 
3; please see below for a detailed hospital course.
Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with a thoracic 
epidural and then transitioned to oral tylenol and oxycodone 
once the epidural was removed. 
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: The patient was allowed to have a regular diet 
throughout her hospital stay, which she tolerated well. 
Patient's intake and output were closely monitored.
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.
Her discharge was delayed by 1 day due to a delay in arranging 
for home ___ care to help her with her surgical drain. At the 
time of discharge on POD 3, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan. She was discharged with her 
drain and ___ care arranged. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 800 mg PO TID 
2. BuPROPion (Sustained Release) 200 mg PO BID 
3. Amitriptyline 50 mg PO QHS 
4. Sumatriptan Succinate 50 mg PO PRN headache 
5. Sulfameth/Trimethoprim SS 1 TAB PO POST INTERCOURSE 
6. Phenazopyridine 100 mg PO TID:PRN bladder pain 
7. Multivitamins 1 TAB PO DAILY 
8. Ibuprofen 400 mg PO Q8H:PRN pain 

 
Discharge Medications:
1. Amitriptyline 50 mg PO QHS 
2. BuPROPion (Sustained Release) 200 mg PO BID 
3. Acetaminophen 1000 mg PO Q8H pain 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*60 Tablet Refills:*0
4. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*50 Tablet Refills:*0
5. Gabapentin 800 mg PO TID 
6. Ibuprofen 600 mg PO Q8H:PRN pain 
please take with meals 
RX *ibuprofen 600 mg 1 tablet(s) by mouth three times a day Disp 
#*30 Tablet Refills:*0
7. Multivitamins 1 TAB PO DAILY 
8. Phenazopyridine 100 mg PO TID:PRN bladder pain 
9. Sulfameth/Trimethoprim SS 1 TAB PO POST INTERCOURSE 
10. Sumatriptan Succinate 50 mg PO PRN headache 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Ventral hernia
Acute pain
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ on ___ after a hernia repair for 
management of post-operative pain. You had an epidural catheter 
placed that has since been removed. You have recovered well and 
are now ready to go home. Please follow the instructions below 
to ensure a smooth recovery:

POST-OPERATIVE INSTRUCTIONS

1.Leave the plastic dressing on for 48 hours. You can shower 
(no bathing) with the dressing on for the first two days. 
2.Remove dressing after 2 days and leave the paper tapes 
(Steri-Strips) on the incision. You can shower (no bathing) 
after removal of dressing and get the Steri-Strips wet. If you 
prefer you can replace the dressing to keep your clothes from 
being soiled or from the stitches catching on your clothes. If 
you choose to replace dressing please do not use waterproof 
plastic dressings.
3.If the dressing has a little blood on it do not worry. You 
can change the dressing if it is stained. Apply new dressing 
with some mild pressure. 
4.The edges of Steri-Strips usually start curling at about 
___ days. The paper strips should be removed at 14 days. 
Rarely patients are sensitive to the glue on Steri-Strips in 
which case please remove the strips and inform us as we may need 
to use something else to keep the incision intact. 
5.You may notice some staining of the Steri-Strips with bloody 
or yellowish discharge, this is normal. In addition some 
swelling around the site of surgery is also normal. 
6.Use of an ice pack/bag is recommended for the first 24- 48 
hours as it reduces       inflammation, swelling and pain. Place 
ice pack for 10 – 20 minutes when convenient. You do not need to 
wake up at night to ice the site of surgery.DO NOT place ice 
pack for longer than 20 minutes on your incisions. Give a 30 
minute gap between placement of ice pack on incision. 
7.Please take first dose of pain medication before anesthetic 
wears off. Take pain medication regularly for the first ___ 
hours and then as needed.
8.Avoid strenuous exercise after your surgery.  Resume physical 
activity when site of surgery does not hurt without pain 
medication performing said activity.
9.    After inguinal hernia repair wear briefs, jock strap 
during the day for minimum of one week.
10. Consume a diet with plenty of non caffienated fluids, plenty 
of fiber. Consider use of a fiber supplement like Konsyl, 
Metamucil, Benefiber or Citrucel. All these measures will 
prevent constipation and thus straining. 
11. You can perform all your acitvities of daily living. AVOID 
lifting weights heavier than 30lbs for a total duration of 6 
weeks after open surgery and 2 weeks after laparoscopic surgery. 
Please note chronic cough, chronic constipation, excessive 
lifting of heavy weights and weight gain predispose to 
recurrence of hernia
12. Call the office at ___ if you have any 
of the following:
A.Persistent drainage of blood or pus from the incision
B.A fever higher than 101 degrees.
C.If the skin around the incision or incision is very red, 
painful, swollen; looks infected

JP Drain Care:
*Please look at the site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warm to touch, fever).
*Maintain suction of the bulb.
*Note color, consistency, and amount of fluid in the drain. Call 
the doctor, ___, or ___ nurse if the amount 
increases significantly or changes in character.
*Be sure to empty the drain frequently. Record the output, if 
instructed to do so.
*You may shower; wash the area gently with warm, soapy water.
*Keep the insertion site clean and dry otherwise.
*Avoid swimming, baths, hot tubs; do not submerge yourself in 
water.
*Make sure to keep the drain attached securely to your body to 
prevent pulling or dislocation.

General Drain Care:
*Please look at the site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warm to touch, fever).
*If the drain is connected to a collection container, please 
note color, consistency, and amount of fluid in the drain. Call 
the doctor, ___, or ___ nurse if the amount 
increases significantly or changes in character. Be sure to 
empty the drain frequently. Record the output, if instructed to 
do so.
*Wash the area gently with warm, soapy water.
*Keep the insertion site clean and dry otherwise.
*Avoid swimming, baths, hot tubs; do not submerge yourself in 
water.
*Make sure to keep the drain attached securely to your body to 
prevent pulling or dislocation.

 
Followup Instructions:
___